US07985876B2
(5-Fluoro-2-hydroxybenzyl)(triphenyl)phosphonium bromide
In 186 ml of acetonitrile, 18.6 g (130.87 mmol) of 4-fluoro-2-(hydroxymethyl)phenol and 42.67 g (124.32 mmol) of triphenylphosphonium hydrobromide are stirred under reflux for 3 h. After cooling, the precipitate formed is filtered off with suction and dried. This gives 58 g (124 mmol, 100% of theory) of the title compound.

reactant | 4-fluoro-2-(hydroxymethyl)phenol | 130.87 mmol, 18.6 g | FC1=CC(=C(C=C1)O)CO | C7H7FO2
reactant | triphenylphosphonium hydrobromide | 124.32 mmol, 42.67 g | Br.C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
solvent | acetonitrile | 186 ml | C(C)#N | C2H3N
product | (5-Fluoro-2-hydroxybenzyl)(triphenyl)phosphonium bromide | [Br-].FC=1C=CC(=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C1)O | InChI=1S/C25H20FOP.BrH/c26-21-16-17-25(27)20(18-21)19-28(22-10-4-1-5-11-22,23-12-6-2-7-13-23)24-14-8-3-9-15-24;/h1-18H,19H2;1H
